datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[H:12])[H:11])[H:10])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([C:6]([H:14])[H:15])[H:13],167.36
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11](=[S:12])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:16])([H:4])[H:5].[C:9]([C:10]([C:11](=[S:12])[H:18])[H:17])([H:13])([H:14])[H:15],20.5016
[C:0](#[C:1][C:2]([C:3](=[S:4])[H:8])([H:6])[H:7])[H:5]>>[C:0](#[C:1][C:2](=[C:3]([S:4][H:6])[H:8])[H:7])[H:5],189.40968
[C:0]([C:1](=[C:2]([H:12])[H:13])[C:3](=[C:4]([H:14])[H:15])[C:5](=[C:6]([H:16])[H:17])[O:7][O:8][C:9]([H:18])([H:19])[H:20])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1](=[C:2]([H:12])[H:13])[C:3](=[C:4]([H:14])[H:15])[C:5](=[C:6]([H:16])[H:17])[O:7]1.[O:8][C:9]([H:18])([H:19])[H:20],29.288
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])([H:12])[H:13])[H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([C:2]([H:9])([H:10])[H:11])([H:8])[C:3]([H:12])([H:13])[C:4]1([C:5]([H:15])[H:16])[H:14],54.392
[C:0]([C:1]12[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[C:6]2([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8],12.552
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][O:17][O:18],220.9152
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15],46.7353
[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],23.8488
[C:0]([C:1]([C:2](=[O:3])[H:8])[H:7])([H:4])([H:5])[H:6].[O:9]([O:10][H:12])[H:11]>>[C:0]([C:1]([C:2](=[O:3])[H:8])([H:7])[H:11])([H:4])([H:5])[H:6].[O:9][O:10][H:12],12.1336
[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[O:13][H:14]>>[H:7][O:13][H:14].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],0.0
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[S:7]([c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:14])[H:4].[S:7][c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19],22.5936
[C:0](=[O:1])[H:2].[O:3][H:4]>>[C-:0]#[O+:1].[H:2][O:3][H:4],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22])[H:6],-11.8407
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[O:15][H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][O:15][H:16],-14.644
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([c:25]1[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]1[H:37])([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:24]([c:25]1[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]1[H:37])([H:31])[H:32])[H:12],43.3044
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:9])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:9])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:9])[H:8],7.28016
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:24])[H:14])([H:12])[H:13],18.1167
